US08084448B2
B. 5-[4-(2,2-Dimethyl-3-oxo-3-phenylpropyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of 5-[2-benzyloxy-4-(2,2-dimethyl-3-oxo-3-phenylpropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt (60 mg) in 4 mL of EtOH/water (1:1) is hydrogenated over Degussa 5% Pd/C (15 mg) at 1 atm for 30 min. The catalyst is filtered and the solvent is removed under reduced pressure and the residue triturated with ether to give the title compound as a solid: (M−1)−=387. HPLC retention time=1.42 min (Method A).

reactant | 5-[2-benzyloxy-4-(2,2-dimethyl-3-oxo-3-phenylpropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt | 60 mg | [K].C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC(C(C1=CC=CC=C1)=O)(C)C)N1CC(NS1(=O)=O)=O
solvent | EtOH water | 4 mL | CCO.O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 5-[4-(2,2-Dimethyl-3-oxo-3-phenylpropyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | CC(CC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O)(C(C1=CC=CC=C1)=O)C | C19H20N2O5S
